US04623652
2-(Phenylacetamido)ethylamine
The procedure of Example IX was repeated in all essential details to produce the above compound, except that equivalent amounts of ethylenediamine and ethyl phenylacetate were substituted for 1,2-diamino-2-methylpropane and ethyl acetate, respectively. The product, which was identified by NMR and IR spectroscopy, had a melting point of 37°-38° C.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | ethyl phenylacetate | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | 1,2-diamino-2-methylpropane | NCC(C)(C)N | C4H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Phenylacetamido)ethylamine | C1(=CC=CC=C1)CC(=O)NCCN | C10H14N2O
